US08536161B2
A mixture of 2-chloro-6-(6-fluoropyridin-3-yl)-4-morpholinothieno[3,2-d]pyrimidine, about four equivalents of a primary or secondary amine (R═H, C1-C12 alkyl, C2-C8 alkenyl, C2-C8 alkynyl, C3-C12 carbocyclyl, C2-C20 heterocyclyl, C6-C20 aryl, or C1-C20 heteroaryl), and about two eq. diisopropylethylamine in N-methylpyrrolidine (˜0.1M) is heated to about 130-140° C. in a sealed microwave reactor for 10˜40 min, followed by removal of volatiles under high vacuum. The crude mixture is purified by flash chromatography to give intermediate 2-chloro-6-(6-aminopyridin-3-yl)-4-morpholinothieno[3,2-d]pyrimidine, which may be Suzuki coupled with a monocyclic heteroaryl, fused bicyclic heterocycle or heteroaryl boronate reagent following General Procedure A.

reactant | 2-chloro-6-(6-fluoropyridin-3-yl)-4-morpholinothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=NC(=CC2)F)N2CCOCC2 | C15H12ClFN4OS
reactant | diisopropylethylamine | about two eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidine | ˜0.1M | CN1CCCC1 | C5H11N
product | 2-chloro-6-(6-aminopyridin-3-yl)-4-morpholinothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=NC(=CC2)N)N2CCOCC2 | C15H14ClN5OS
